US05852011
4-[N,N-Bis(2-chloroethyl)aminomethyl]benzoyl chloride
Thionyl chloride (1 ml) was added to a solution of 320 mg (1.0 mmol) of 4-[N,N-bis(2-chloroethyl)aminomethyl]benzoic acid in 2 ml of benzene, followed by stirring under heating at 80° C. for 2 hours. After the solvent was distilled out under reduced pressure, the residue was dried up under reduced pressure so that a white solid was obtained.

reactant | Thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-[N,N-bis(2-chloroethyl)aminomethyl]benzoic acid | 1.0 mmol, 320 mg | ClCCN(CCCl)CC1=CC=C(C(=O)O)C=C1 | C12H15Cl2NO2
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | 4-[N,N-Bis(2-chloroethyl)aminomethyl]benzoyl chloride | ClCCN(CCCl)CC1=CC=C(C(=O)Cl)C=C1 | C12H14Cl3NO
